US08754079B2
XXXXII.2. 2-(cis-3-methoxy-cyclohexyloxy)-pyridin-3-ylamine
Ammonium formate (7.25 g) was added to a suspension of 2-(cis-3-methoxy-cyclohexyloxy)-3-nitro-pyridine (5.80 g) and 10% palladium on charcoal (400 mg) in methanol (40 ml) at room temperature and the mixture was heated to reflux for 30 min until LCMS indicated complete conversion of the starting material. The mixture was diluted with dichloromethane (100 ml) and water (40 ml), filtered through celite, and the filtercake was washed with dichloromethane (30 ml). The organic layer was dried over MgSO4 and concentrated in vacuo. The residue was submitted to column chromatography (silica gel, petrol ether/ethyl acetate 70:30) to give the desired product.

reactant | Ammonium formate | 7.25 g | C(=O)[O-].[NH4+]
reactant | 2-(cis-3-methoxy-cyclohexyloxy)-3-nitro-pyridine | 5.80 g | CO[C@H]1C[C@H](CCC1)OC1=NC=CC=C1[N+](=O)[O-] | C12H16N2O4
catalyst | palladium on charcoal | 400 mg | [Pd] | Pd
solvent | methanol | 40 ml | CO | CH4O
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 40 ml | O | H2O
product | 2-(cis-3-methoxy-cyclohexyloxy)-pyridin-3-ylamine | CO[C@H]1C[C@H](CCC1)OC1=NC=CC=C1N | C12H18N2O2
